US03950528
3-Amino-1-(4-trifluoromethoxybenzyl)-pyrazol-5-one ##SPC25##
From 17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 20.6 g of 4-trifluoromethoxybenzylhydrazine, analogously to the procedure described in Example 1. 8.7 g of the compound identified above as colorless crystals of melting point 99°, corresponding to 32% of theory, are obtained.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 4-trifluoromethoxybenzylhydrazine | 20.6 g | FC(OC1=CC=C(CNN)C=C1)(F)F | C8H9F3N2O
product | 3-Amino-1-(4-trifluoromethoxybenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)OC(F)(F)F | C11H10F3N3O2
